US07750154B2
N-Cyclopropyl-4-methyl-3-[6-{2-[(methylsulfonyl)amino]ethoxy}-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12280338)
3-[6-(2-Aminoethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide (0.1 g), methanesulfonyl chloride (0.027 ml), and triethylamine (0.074 ml) were stirred in methylene chloride (2 ml) under an atmosphere of argon for 2 hours at room temperature. The reaction mixture was diluted with ethyl acetate and washed with water (2×), brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography on a silica column eluting with 10% methanol/ethyl acetate gave the title compound (0.106 g) as a white solid; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 2.15 (s, 3H), 2.85 (m, 1H), 2.96 (s, 3H), 3.41 (m, 2H), 4.19 (t, 2H), 7.30 (t, 1H), 7.54 (m, 2H), 7.60 (s, 1H), 7.75 (d, 1H), 7.84 (s, 1H), 7.91 (d, 1H), 8.20 (s, 1H), 8.43 (d, 1H); Mass Spectrum: M+H+ 457.

reactant | 3-[6-(2-Aminoethoxy)-4-oxoquinazolin-3(4H)-yl]-N-cyclopropyl-4-methylbenzamide | 0.1 g | NCCOC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2CC2)C=CC1C)=O | C21H22N4O3
reactant | methanesulfonyl chloride | 0.027 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.074 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropyl-4-methyl-3-[6-{2-[(methylsulfonyl)amino]ethoxy}-4-oxoquinazolin-3(4H)-yl]benzamide | 0.106 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OCCNS(=O)(=O)C)=O | C22H24N4O5S
